* Schematics Netlist *



C_C1         0 $N_0001  1n  
R_R3         $N_0003 $N_0002  560  
R_R4         $N_0005 $N_0004  100  
R_R2         $N_0006 $N_0005  100  
R_R1         $N_0001 $N_0004  560  
C_C3         $N_0003 $N_0004  10u  
L_L2         0 $N_0006  20m  
V_V2         $N_0002 0  
+PULSE 0 10 0 0 0 1 
