* Schematics Netlist *



V_V1         $N_0001 0 80V
R_R1         0 $N_0001  0.01k  
R_R2         $N_0002 $N_0001  0.005k  
R_R3         $N_0002 $N_0003  0.008k  
R_R4         $N_0003 $N_0004  0.004k  
R_R5         $N_0003 $N_0004  0.008k  
R_R6         $N_0002 $N_0005  0.006k  
R_R7         $N_0003 $N_0006  0.006k  
R_R8         $N_0004 $N_0006  0.002k  
R_R9         0 $N_0005  0.004k  
