* Schematics Netlist *



R_R1         0 $N_0001  0.01k  
R_R2         $N_0002 $N_0001  0.02k  
R_R3         $N_0002 0  0.005k  
R_R4         $N_0001 $N_0003  0.014k  
R_R5         $N_0003 $N_0002  0.006k  
V_V1         $N_0002 0 20V
