* Schematics Netlist *



V_V1         $N_0001 0 15V
R_R3         $N_0001 $N_0002  0.01k  
R_R1         $N_0001 $N_0003  0.008k  
R_R2         $N_0003 $N_0002  0.005k  
R_R4         0 $N_0003  0.003k  
R_R5         0 $N_0002  0.002k  
