* Schematics Netlist *



V_V1         $N_0001 0 24V
R_R3         0 $N_0001  1.2k  
R_R2         0 $N_0001  0.22k  
R_R1         0 $N_0001  0.01k  
