* Schematics Netlist *



R_R4         $N_0002 $N_0001  9k  
R_R5         $N_0002 $N_0001  6k  
R_R6         $N_0002 0  10.4k  
R_R3         0 $N_0001  3k  
R_R2         0 $N_0001  12k  
R_R1         0 $N_0001  12k  
V_E         $N_0001 0 28V
