* Schematics Netlist *



V_V1         $N_0001 0 15V
R_R1         $N_0001 $N_0002  8  
R_R5         $N_0001 $N_0003  10  
R_R2         0 $N_0002  3  
R_R3         $N_0002 $N_0003  5  
R_R4         0 $N_0003  2  
