* Schematics Netlist *



V_V1         $N_0001 0 28V
R_R1         0 $N_0001  12k  
R_R2         0 $N_0001  12k  
R_R3         0 $N_0001  3k  
R_R6         0 $N_0002  10.4  
R_R4         $N_0002 $N_0001  9k  
R_R5         $N_0002 $N_0001  6k  
