* Schematics Netlist *



R_R1         0 $N_0001  10  
V_V1         0 $N_0001 80V
R_R2         $N_0001 $N_0002  5  
R_R3         $N_0003 $N_0002  8  
R_R4         0 $N_0003  4  
R_R5         0 $N_0003  8  
R_R7         $N_0004 $N_0003  6  
R_R8         0 $N_0004  2  
R_R6         $N_0002 $N_0005  6  
R_R9         0 $N_0005  4  
