* Schematics Netlist *



R_R1         0 $N_0001  10  
R_R2         $N_0001 $N_0002  20  
R_R3         0 $N_0002  5  
V_V1         $N_0002 0 20V
R_R5         $N_0001 $N_0003  14  
R_R6         $N_0002 $N_0003  6  
